US07407958B2
To a stirred solution of 4-(2-(1,3-dioxolan-2-yl)ethyl)benzonitrile (1.50 g, 7.34 mmol) (prepared according to the method described in Kelly, S. M., Liquid Crystals 10: 273? 287 (1991)) in MeOH (50 mL) at room temperature were added 30% H2O2 (25.70 mmol) and 6 N NaOH (7.34 mmol) solution. The mixture was warmed to 50? 60? and stirred for 2 h, and to it, 1 N HCl solution was added to adjust to pH 7? 8 at 0?. The MeOH solvent was evaporated off under reduced pressure, and the residue was extracted with CH2Cl2 (3×30 mL). The CH2Cl2 solution was washed with brine (30 mL), dried (anhydrous Na2SO4), filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of MeOH and CH2Cl2 (1:19, then 1:9 (v/v)) as eluent to give 1.58 g (97%) of 4-(2-(1,3-dioxolan-2-yl)ethyl)benzamide as a solid. 1H NMR (400 MHz, CDCl3) δ 7.74 (dd, 2H), 7.29 (d, 2H), 6.01 (br s, 1H), 5.71 (br s, 1H), 4.89 (t, 1H), 3.99 (m, 2H), 3.88 (m, 2H), 2.80 (m, 2H), 1.99 (m, 2H).

reactant | 4-(2-(1,3-dioxolan-2-yl)ethyl)benzonitrile | 7.34 mmol, 1.50 g | O1C(OCC1)CCC1=CC=C(C#N)C=C1 | C12H13NO2
reactant | H2O2 | 25.70 mmol | OO | H2O2
reactant | NaOH | 7.34 mmol, 6 N | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | 4-(2-(1,3-dioxolan-2-yl)ethyl)benzamide | 1.58 g, 97% | O1C(OCC1)CCC1=CC=C(C(=O)N)C=C1 | C12H15NO3
